US06888032B2
Quinoline-3-carbonitrile
An oven dried screw cap test tube was charged with NaCN (98 mg, 2.0 mmol), dried KI (32 mg, 0.168 mmol, 20 mol %) and CuI (56 mg, 0.337 mmol, 10 mol %), evacuated and backfilled with argon three times. 3-Bromoquinoline (225 μL, 1.66 mmol), N,N′-dimethylethylenediamine (180 μL, 1.69 mmol) and anhydrous toluene (1 mL) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 24 h. The resulting yellow suspension was cooled to room temperature, 2 mL of ethyl acetate, 1 mL of ammonium hydroxide (30%) and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min, then the organic layer was separated and the aqueous layer was extracted three times with ethyl acetate (3×2 mL). The combined organic layers were washed with 5 mL of water and dried over MgSO4. The solvent was removed at reduced pressure. Purification of the residue by flash chromatography on silica gel (2×15 cm; hexane/ethyl acetate 10:1) provided 188 mg (74% yield) of the title compound as a white solid.

reactant | NaCN | 2.0 mmol, 98 mg | [C-]#N.[Na+]
reactant | 3-Bromoquinoline | 1.66 mmol, 225 μL | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | N,N′-dimethylethylenediamine | 1.69 mmol, 180 μL | CNCCNC | C4H12N2
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.337 mmol, 56 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | Quinoline-3-carbonitrile | 188 mg, 74% yield | N1=CC(=CC2=CC=CC=C12)C#N | C10H6N2
